US07897601B2
To a suspension of 60% NaH in mineral oil (16 g) in 1 L THF was added triethyl 4-phosphonocrotonate (100 g). The resulting solution was stirred for 2 hr, and then a solution of 2,4-dichlorobenzaldehyde (54 g) in 200 mL THF was added thereto. The mixture was stirred at room temperature for 1 hr. The reaction was quenched by the addition of 1 L of aq. NH4Cl and the THF was evaporated. The mixture was extracted with 4×200 ml ethyl acetate and the combined organic layer washed with water, brine and dried over MgSO4 then evaporated to provide the crude product. This was purified by silica gel chromatography using 5% ethyl acetate-hexanes to give 25.9 g of 5-(2,4-dichloro-phenyl)-penta-2,4-dienoic acid ethyl ester. MS: m/e 271.04 (MH+)

reactant | NaH | [H-].[Na+]
reactant | triethyl 4-phosphonocrotonate | 100 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | 2,4-dichlorobenzaldehyde | 54 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-(2,4-dichloro-phenyl)-penta-2,4-dienoic acid ethyl ester | 25.9 g | C(C)OC(C=CC=CC1=C(C=C(C=C1)Cl)Cl)=O | C13H12Cl2O2
